data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-CC_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-c1ccccc1_7-CC","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(CC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[Si](C)(C)C","C(=O)(c1ccccc1)CC","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(CC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O)(c1ccccc1)CC"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(c1ccccc1)CC","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[C+](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)CC","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)CC","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(O)(c1ccccc1)CC","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
